US05760259
11-(2-Furyl)undecanoic acid
This compound was synthesized from 11-(2-furyl)-10-undecenoic acid (1.25 g, 5 mmol) by a hydrogenation reaction using Pd/BaSO4 (125 mg). Crystallization (petroleum ether) afforded the product (1.13 g, 90%) as white crystals (mp 40°-41° C.); IR: 3450-2500, 1720 cm-1 ; 1H-NMR: 1.30 (m, 12H), 1.65 (m, 4H), 2.34 (t, 2H), 2.60 (t, 2H), 5.95 (d, 1H), 6.28 (d, 1H), 7.30 (s, 1H), 10.10 (bs, 1H). Anal. Calcd. for C15H24O3 : C, 71.39, H, 9.58%; Found: C, 71.21, H, 9.63%.

reactant | 11-(2-furyl)-10-undecenoic acid | 5 mmol, 1.25 g | O1C(=CC=C1)C=CCCCCCCCCC(=O)O | C15H22O3
catalyst | Pd BaSO4 | 125 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 11-(2-Furyl)undecanoic acid | 1.13 g, 90% | O1C(=CC=C1)CCCCCCCCCCC(=O)O | C15H24O3
